US06255307B1
8. 2-Amino-3-bromo-6-acetamidopyrazine
A mixture of 2,6-diamino-3-bromopyrazine (10.50 g, 0.056 mole) in dry 1,1-dimethoxyethane (168 ml) and acetic anhydride (7.91 ml, 8.56 g, 0.084 mole) was refluxed under nitrogen for 2.50 hrs. The cooled mixture was evaporated in vacuo. The residue was triturated with ether, filtered and dried in vacuo. Yield 10.31 g (80%), M.p. 218-221° C.

reactant | 2,6-diamino-3-bromopyrazine | 0.056 mole, 10.50 g | NC1=NC(=CN=C1Br)N | C4H5BrN4
reactant | acetic anhydride | 0.084 mole, 7.91 ml, 8.56 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | 1,1-dimethoxyethane | 168 ml | COC(C)OC | C4H10O2
product | 2-Amino-3-bromo-6-acetamidopyrazine | NC1=NC(=CN=C1Br)NC(C)=O | C6H7BrN4O
